US06884821B1
4.5 g of 2-hydroxy-4-(trifluoromethyl)benzaldehyde was dissolved in 20 ml N,N-dimethylformamide. 1.0 g of sodium hydride (60% oily) was added, followed by stirring at room temperature for 30 minutes. 1.8 ml methyl iodide was added dropwise thereinto, follwed by reacting for 1 hour. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, to give 3.0 g of 2-methoxy-4-(trifluoromethyl)benzaldehyde as a colorless oil from fractions eluted with hexane-ethyl acetate (9:1).

reactant | 2-hydroxy-4-(trifluoromethyl)benzaldehyde | 4.5 g | OC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H5F3O2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | methyl iodide | 1.8 ml | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-4-(trifluoromethyl)benzaldehyde | 3.0 g | COC1=C(C=O)C=CC(=C1)C(F)(F)F | C9H7F3O2
